US04957928
At -15° and while stirring, 2.65 g (70 mmol) of sodium borohydride are added in portions over a period of one hour to a suspension of 12.45 g (35 mmol) of 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride or 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-oxopiperidine-3-carboxylic acid methyl ester hydrochloride, respectively, in 250 ml of methanol. Stirring is continued for a further 4 hours at -10° and then the reaction mixture is concentrated by evaporation in vacuo and taken up in water/ethyl acetate. The ethyl acetate extracts are washed with water, dried over sodium sulphate and concentrated by evaporation. 11.2 g (100%) of crude product are obtained which are chromatographed on 560 g of silica gel (0.040-0.063 mm) using ethyl acetate as the eluant. 5.41 g (48.2%) of trans-1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-hydroxypiperidine-3-carboxylic acid methyl ester are obtained in the form of a pale yellow oil. The trans-1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-hydroxypiperidine-3-carboxylic acid methyl ester fumarate produced therefrom using fumaric acid crystallises from methanol/diethyl ether in the form of the hemihydrate having a melting point of 150°-152°.

reactant | sodium borohydride | 70 mmol, 2.65 g | [BH4-].[Na+]
reactant | 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride | 35 mmol, 12.45 g | Cl.COC(=O)C=1CN(CCC1O)CCC1COC2=C(O1)C=CC=C2
reactant | 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-oxopiperidine-3-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1CN(CCC1=O)CCC1COC2=C(O1)C=CC=C2
solvent | methanol | 250 ml | CO | CH4O
product | trans-1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-4-hydroxypiperidine-3-carboxylic acid methyl ester | 5.41 g, 48.2% | COC(=O)[C@@H]1CN(CC[C@H]1O)CCC1COC2=C(O1)C=CC=C2 | C17H23NO5
